US06573293B2
3-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (3-diethylaminopropyl)amide
Oxindole (66.5 mg, 0.5 mmol) was condensed with 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl) amide (prepared from 3-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester by method B then C) to give 39 mg (21%) of the title compound.

reactant | Oxindole | 0.5 mmol, 66.5 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl) amide | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=O)CC | C14H23N3O2
reactant | 3-formyl-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1NC=CC1(C)C=O | C9H13NO3
product | 3-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (3-diethylaminopropyl)amide | 39 mg, 21% | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=C1C(NC2=CC=CC=C12)=O)CC | C22H28N4O2
